US06936612B2
Acetic acid 8-cyclopentyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-ylmethyl ester (0.85 g, 2.55 mmol), prepared as in Example 26, and 2-benzenesulfonyl-3-phenyl-oxaziridine (0.8 g, 3.06 mmol) were mixed in dichloromethane (20 ml) and stirred at room temperature for 5 hours. To this mixture was added diethyl ether giving a solid precipitate which was filtered and dried in vacuo to provide acetic acid 8-cyclopentyl-2-methanesulfinyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-ylmethyl ester as a solid (0.81 g, (91%). MS (APCI) M++1; Calc'd 350.41. Found 350.2.

reactant | Acetic acid 8-cyclopentyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-ylmethyl ester | 2.55 mmol, 0.85 g | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)SC)COC(C)=O)=O | C16H19N3O3S
reactant | 2-benzenesulfonyl-3-phenyl-oxaziridine | 3.06 mmol, 0.8 g | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | acetic acid 8-cyclopentyl-2-methanesulfinyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-ylmethyl ester | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)S(=O)C)COC(C)=O)=O | C16H19N3O4S
